US05137890
2-Amino-4-(4-chlorophenyl)-6-propyl-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine Dihydrochloride 1/4 Hydrate
The title compound was prepared as described in Example 17 starting with 2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride (4.0 g, 13.5 mmol) and iodopropane (1.3 mL, 13.5 mmol) instead of iodoethane to produce 2.1 g (51%) of 2-amino-4-(4-chlorophenyl)-6-propyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride 1/4 hydrate. m.p. 244°-246° C. MS: 303(HM+).

reactant | 2-amino-4-(4-chlorophenyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride | 13.5 mmol, 4.0 g | Cl.Cl.NC=1N=C(C2=C(N1)CCNC2)C2=CC=C(C=C2)Cl
reactant | iodopropane | 13.5 mmol, 1.3 mL | ICCC | C3H7I
product | 2-amino-4-(4-chlorophenyl)-6-propyl-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine dihydrochloride | 2.1 g, 51% | Cl.Cl.NC=1N=C(C2=C(N1)CCN(C2)CCC)C2=CC=C(C=C2)Cl | InChI=1S/C16H19ClN4.2ClH/c1-2-8-21-9-7-14-13(10-21)15(20-16(18)19-14)11-3-5-12(17)6-4-11;;/h3-6H,2,7-10H2,1H3,(H2,18,19,20);2*1H
